Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1](/[C:2](=[C:3](\[C:5](=[O:6])[H:12])[H:10])[H:9])[H:7].[O:4]([H:8])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],68.99959769880053
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][N:5]([H:12])[C:7]#[C:6]1)[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],10.032577852929705
[C:1]([C:2]#[C:3][C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],35.5250332967273
[C:1]([C:2]([C:3](/[C:4](=[C:5](/[O:6][C:7]([H:19])([H:20])[H:21])[H:17])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:18]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],79.0860573179884
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([N:4]([H:11])[H:12])=[C+:5][N:7]([H:13])[H:14])[O-:6])([H:8])([H:9])[H:10],105.439931257547
[C:2](=[O:3])=[O:4].[N:1]([C+:5]([N-:6][H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],57.1749114859008
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:13])[H:14],72.17351448479441
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:3]=[C:4]([N+:6]#[C-:5])[H:10])[H:9])([H:7])[H:8],56.727132837577294
[N:1]([C+:2]([N-:3][O:4][H:10])[N:7]=[C:5]=[O:6])([H:8])[H:9]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],59.9910917949541
[C:1]([O:2][C:5]([C:3](=[O:4])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],94.21844778620921
[C:2]1([C:5]#[N:6])=[C:3]([H:9])[C:4]1([H:11])[H:12].[N:1]([H:7])([H:8])[H:10]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],30.27059397323041
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:7](=[C:6]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],69.78330440444451
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:4]([C:5]#[N:6])([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:7])[H:8],79.04574309202391
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])[C:4]1=[C:5].[C:6](=[O:7])([H:9])[H:15],114.86232041056499
[O:1]=[C:6]1[C:5]([H:12])([H:13])[C:4]([H:10])([H:11])[N:3]([H:9])[C:2]([H:8])=[C:7]1[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],116.64873936550791
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5][O:7][H:21])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[C:6]([H:17])([H:18])([H:19])[H:20],71.2428729187949
[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[C:3](\[C:4](=[O:5])[H:14])[H:12])(\[C:6]#[N:7])[H:11]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],71.5499066784082
[H:11][H:12].[O:1](/[N:2]=[C:3]1/[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1)[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],17.121837851553906
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3]([H:10])([H:11])[H:12])(=[C:4]([H:14])[H:15])[C:5](=[O:6])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],92.3440242318801
[N:1](=[C:2]=[C:6]([O:7])[H:10])[H:8].[O:3]=[C:4]([O:5])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],6.144586596106421
[N-:3]=[N+:4]=[N:5].[O:1]=[C:2][H:6]>>[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6],1.4421443885042038
[C:1]([C:3]([C@@:2]([O:4][H:13])([C:5]#[C:6][H:14])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],89.34039103162432
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]1=[C+:4][C:5]1=[C-:6][H:8])[H:7],50.715286720093786
[C:1](=[O+:2][C:3]([C@@:7]1([H:17])[C-:4]([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])([H:10])[H:11])([H:8])[H:9]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],21.30398340805781
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6][C:7]1([H:9])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],31.058770053861004
